US08202873B2
Stir together 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (1.6 g, 8.43 mmol) and 5-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde (2.35 g, 12.6 mmol) in dry tetrahydrofuran (10 mL) at room temperature for 15 min., under nitrogen. Add sodium triacetoxyborohydride (2.68 g, 12.6 mmol) and stir reaction for 1 hr. Quench reaction mixture with saturated aq. sodium bicarbonate (50 mL), then extract with DCM (3×50 mL) and pass through an IST Phase Separator Frit®. Concentrate and purify (silica gel chromatography, eluting with 5:95 methanol:DCM) and concentrate all fractions containing product. Pass the mixture through a CBA column to retain the product, wash with methanol and then elute with 2 M ammonia in methanol. Recrystallize from hot ethanol and dry in vacuum oven to give 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl as white crystals (2.08 g, 65%). MS (ES): m/z=369 [M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 8.43 mmol, 1.6 g | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
reactant | 5-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde | 12.6 mmol, 2.35 g | CC1=C(C=NN1C1=CC=CC=C1)C=O | C11H10N2O
reactant | sodium triacetoxyborohydride | 12.6 mmol, 2.68 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 2.08 g, 65% | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C1=CC=CC=C1 | C19H21ClN6
